US06228868B1
1-(1-hydroxy-2-aminoethyl)-3,4,5-trimethoxy benzene
A solution of 3,4,5-trimethoxybenzaldehyde (10 g, 51 mmol) and nitromethane (10 mL) in ethanol at 0° C. was treated with 10% sodium hydroxide (21.4 mL, 53.5 mmol), stirred for 45 sesonds, treated with 2% acetic acid (162 mL), stirred for 1 hour in the ice bath, and filtered. The solid was washed with water and dried under vacuum to provide 9.0 g of the desired product as an off-white solid.

reactant | 3,4,5-trimethoxybenzaldehyde | 51 mmol, 10 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | nitromethane | 10 mL | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 53.5 mmol, 21.4 mL | [OH-].[Na+]
reactant | acetic acid | 162 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 1-(1-hydroxy-2-aminoethyl)-3,4,5-trimethoxy benzene | 9.0 g | OC(CN)C1=CC(=C(C(=C1)OC)OC)OC | C11H17NO4
